US06875765B2
3-(2-{2-[2-(2-Dimethylamino-ethoxy)-naphthalen-1-yl]-ethoxy}-benzenesulfonylamino)-4-oxo-butyric acid tert-butyl ester (190 mg, 0.33 mmol) was stirred with trifluoroacetic acid (0.4 mL) in CH2Cl2 (1.2 mL) at room temperature for 1 h. Analytical HPLC analysis indicated the reaction was complete. The reaction mixture was concentrated. Residual trifluoroacetic acid was azeotroped with toluene. The crude product was purified by preparative HPLC to give 3-(2-{2-[2-(2-Dimethylamino-ethoxy)-naphthalen-1-yl]-ethoxy}-benzenesulfonylamino)-4-oxo-butyric acid (31 mg, 0.060 mmol) as a white solid in 18% yield. MS (APCI) m/z 515.1 (M+1).

reactant | 3-(2-{2-[2-(2-Dimethylamino-ethoxy)-naphthalen-1-yl]-ethoxy}-benzenesulfonylamino)-4-oxo-butyric acid tert-butyl ester | 0.33 mmol, 190 mg | C(C)(C)(C)OC(CC(C=O)NS(=O)(=O)C1=C(C=CC=C1)OCCC1=C(C=CC2=CC=CC=C12)OCCN(C)C)=O | C30H38N2O7S
reactant | trifluoroacetic acid | 0.4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 1.2 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-{2-[2-(2-Dimethylamino-ethoxy)-naphthalen-1-yl]-ethoxy}-benzenesulfonylamino)-4-oxo-butyric acid | 0.060 mmol, 31 mg, 18% yield | CN(CCOC1=C(C2=CC=CC=C2C=C1)CCOC1=C(C=CC=C1)S(=O)(=O)NC(CC(=O)O)C=O)C | C26H30N2O7S
